US05023334
Preparation of benzoic acid [2-phenyl-1-(4-pyridinyl)ethylidene]hydrazide, Compound 61
Following the general method of procedure 9 and making non-critical variations, except 12 drops of glacial acetic acid was used, 6.00 gm (0.0304 mole) of benzyl 4-pyridyl ketone and 4.14 gm (0.0304 mole) of benzhydrazide yield 8.90 gm (93%) of the title compound in two crops melting at 84.4° and 90.0°.

reactant | benzyl 4-pyridyl ketone | 0.0304 mole, 6.00 gm | N1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C13H11NO
reactant | benzhydrazide | 0.0304 mole, 4.14 gm | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
catalyst | acetic acid | 12 drops | C(C)(=O)O | C2H4O2
product | benzoic acid [2-phenyl-1-(4-pyridinyl)ethylidene]hydrazide | C1(=CC=CC=C1)CC(C1=CC=NC=C1)=NNC(C1=CC=CC=C1)=O | C20H17N3O
